US07795262B2
Step 3. Preparation of 3-{2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydro-isoquinolin-6-yl}-1,3-oxazolidin-2-one
To a sealed tube charged with 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline (1.00 g, 2.28 mmol), 5-bromo-1-methylpyridin-2(1H)-one (513 mg, 2.73 mmol, 1.2 eq.), Pd(PPh3)4 (100 mg, 0.087 mmol, 0.04 eq.) and K2CO3 (945 mg, 6.84 mmol, 3.0 eq.), are added dioxane (20 ml) and water (3 mL). The mixture is degassed with nitrogen for 5 min. The tube is sealed and heated at 100° C. overnight. The reaction mixture is cooled and partitioned between DCM (150 mL) and 1N NaOH (100 mL). The mixture is extracted with DCM (2×150 mL). The combined organic extracts are dried and evaporated to yield the crude product which is purified by silica gel column chromatography eluting with EtOAc/MeOH/NEt3 (95:5:3) to yield the title compound. 1H NMR (300 MHz, CDCl3) δ 7.61 (1H, dd), 7.47 (1H, d), 7.15 (1H, s), 7.06 (1H, d), 6.66 (1H, d), 3.72 (2H, s), 3.67-3.64 (m, 4H), 3.62 (3H, s), 3.37 (2H, s), 2.94 (2H, t), 2.81 (2H, t), 2.69 (1H, m), 2.32-2.27 (4H, m), 2.03-1.67 (6H); MS (+VE) m/z 421.49 (M++1).

reactant | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | 2.28 mmol, 1.00 g | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)B1OC(C(O1)(C)C)(C)C)=O | C25H38BN3O3
reactant | 5-bromo-1-methylpyridin-2(1H)-one | 2.73 mmol, 513 mg, 1.2 eq. | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | K2CO3 | 6.84 mmol, 945 mg, 3.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.087 mmol, 100 mg, 0.04 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 3 mL | O | H2O
product | 3-{2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydro-isoquinolin-6-yl}-1,3-oxazolidin-2-one | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)N1C(OCC1)=O)=O | C22H30N4O3
